US07834019B2
Production of 6-(methylthio)-1-phenyl-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one
60 mL of triethylamine was added to tetrahydrofuran (200 mL) solution of 25 g of ethyl 4-chloro-2-(methylthio)pyrimidine-5-carboxylate and 12.7 mL of phenylhydrazine, and stirred at room temperature for 18 hours. The solvent was concentrated under reduced pressure, water was added to the residue, then washed with ether, and made acidic with aqueous 5 N hydrochloric acid solution added thereto. The precipitated solid was taken out through filtration, and washed with water and 2-propanol to obtain 10.8 g of the entitled compound as a white solid.

reactant | triethylamine | 60 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl 4-chloro-2-(methylthio)pyrimidine-5-carboxylate | 25 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
reactant | phenylhydrazine | 12.7 mL | C1(=CC=CC=C1)NN | C6H8N2
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | 6-(methylthio)-1-phenyl-1,2-dihydro-3H-pyrazolo[3,4-d]pyrimidin-3-one | 10.8 g | CSC1=NC=C2C(=N1)N(NC2=O)C2=CC=CC=C2 | C12H10N4OS
